US09302988B2
Step 1: 1-Chloro-4-(1-iodo-2-tosylethyl)benzene
A flask was charged with sodium p-toluenesulfinate (19.28 g, 108 mmol) and NaI (16.22 g, 108 mmol) in dry MeCN (360 mL). The reaction mixture was bubbled through with argon for 15 min followed by addition of 4-chlorostyrene (9.09 mL, 72.2 mmol) and (NH4)2Ce(NO3)6 (79 g, 144 mmol). The reaction mixture was stirred for 18 h under argon atmosphere at room temperature. Then the solvent was evaporated under reduced pressure and the residue was partitioned between H2O (400 mL) and DCM (500 mL). The layers were separated and the aqueous phase was extracted with DCM (200 mL). The organic layer was washed with saturated aqueous Na2S2O3 (150 mL), brine (150 mL), dried over Na2SO4, filtered and evaporate to dryness to afford 28.5 g (94%) of the desired product.

reactant | sodium p-toluenesulfinate | 108 mmol, 19.28 g | C1(=CC=C(C=C1)S(=O)[O-])C.[Na+]
reactant | NaI | 108 mmol, 16.22 g | [Na+].[I-]
reactant | 4-chlorostyrene | 72.2 mmol, 9.09 mL | ClC1=CC=C(C=C)C=C1 | C8H7Cl
solvent | MeCN | 360 mL | CC#N | C2H3N
product | 1-Chloro-4-(1-iodo-2-tosylethyl)benzene | 28.5 g, 94% | ClC1=CC=C(C=C1)C(CS(=O)(=O)C1=CC=C(C)C=C1)I | C15H14ClIO2S
